US07423012B2
(c) 2-(6-Amino-pyridin-3-ylmethyl)-N-benzyl-N-hydroxy-succinamic acid
A solution of 2-(6-Amino-pyridin-3-ylmethyl)-N-benzyl-N-benzyloxy-succinamic acid (0.9 g, 1.7 mmol) and palladium (0.5 g, 5% on charcoal) in methanol (100 mL) was hydrogenated at 1 bar for 2 h. The reaction mixture was filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (CHCl3/MeOH/H2O, 10:5:1) to give the title compound (123 mg, 22%).

reactant | 2-(6-Amino-pyridin-3-ylmethyl)-N-benzyl-N-benzyloxy-succinamic acid | 1.7 mmol, 0.9 g | NC1=CC=C(C=N1)CC(C(=O)O)CC(=O)N(OCC1=CC=CC=C1)CC1=CC=CC=C1 | C24H25N3O4
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium | 0.5 g | [Pd] | Pd
product | 2-(6-Amino-pyridin-3-ylmethyl)-N-benzyl-N-hydroxy-succinamic acid | 123 mg, 22% | NC1=CC=C(C=N1)CC(C(=O)O)CC(=O)N(O)CC1=CC=CC=C1 | C17H19N3O4
